US07855290B2
N-(2,5-Difluoro-4-{[2-({[3-(2-dimethylaminoacetoxy)azetidin-1-yl]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
N-{2,5-Difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide (38.9 mg) was dissolved in N,N-dimethylformamide (1.0 ml) under a nitrogen atmosphere, and N,N-dimethylglycine hydrochloride (20 mg), triethylamine (0.050 ml) and BOP reagent (63.5 mg) were added at room temperature, followed by stirring overnight. N,N-Dimethylglycine hydrochloride (20 mg), triethylamine (0.050 ml) and BOP reagent (63.5 mg) were added again at room temperature, and the reaction mixture was stirred for 5 hr. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with a saturated aqueous solution of sodium hydrogencarbonate (twice) and brine, dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate), and fractions containing the target compound were concentrated under reduced pressure. To the resultant residue was added tert-butyl methyl ether (1 ml)-heptane (2 ml) to precipitate a solid. The solid was collected by filtration and dried under aeration to provide the titled compound as white powder (21.1 mg, 47%).

reactant | N-{2,5-Difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 38.9 mg | FC1=C(C=C(C(=C1)OC1=CC(=NC=C1)NC(=O)N1CC(C1)O)F)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F | C26H22F3N5O5
reactant | N,N-dimethylglycine hydrochloride | 20 mg | Cl.CN(CC(=O)O)C
reactant | triethylamine | 0.050 ml | C(C)N(CC)CC | C6H15N
reactant | BOP reagent | 63.5 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-Dimethylglycine hydrochloride | 20 mg | Cl.CN(CC(=O)O)C
reactant | triethylamine | 0.050 ml | C(C)N(CC)CC | C6H15N
reactant | BOP reagent | 63.5 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | N-(2,5-Difluoro-4-{[2-({[3-(2-dimethylaminoacetoxy)azetidin-1-yl]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 21.1 mg, 47% | FC1=C(C=C(C(=C1)OC1=CC(=NC=C1)NC(=O)N1CC(C1)OC(CN(C)C)=O)F)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F | C30H29F3N6O6
